US06706709B2
A suspension of 5-chlorosulfonyl-2-oxindole (1.62 g, 7 mmol), pyrrolidine (0.701 mL, 8.4 mmol) and pyridine (1 mL) in dichloromethane (20 mL) was stirred at room temperature for 4 hours. The reaction mixture was diluted with ethyl acetate (300 mL) and made acidic with 1N hydrochloric acid (16 mL). The organic layer was then washed with sodium bicarbonate and brine, dried and concentrated. The residue was washed with ethanol (3 mL). It was then purified by chromatography on silica gel eluting with methanol:dichloromethane 1:9 to give 0.432 g (27%)-5-(pyrrolidine-1-sulfonyl)-1,3-dihydro-indol-2-one.

reactant | 5-chlorosulfonyl-2-oxindole | 7 mmol, 1.62 g | ClS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H6ClNO3S
reactant | pyrrolidine | 8.4 mmol, 0.701 mL | N1CCCC1 | C4H9N
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 1N, 16 mL | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 5-(pyrrolidine-1-sulfonyl)-1,3-dihydro-indol-2-one | N1(CCCC1)S(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C12H14N2O3S
